US05516774
N-[4-[[3-(Trichloroacetyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10 (11H) -yl]carbonyl]phenyl]-2(trifluoromethyl)benzamide
To a stirred solution of 0.48 g of N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2-(trifluoromethyl)benzamide in 20 ml of methylene chloride is added 0.40 g of trichloroacetic anhydride followed by stirring at room temperature for 18 hours. The reaction mixture is washed with water and saturated NaHCO3, dried over Na2SO4 and passed through a pad of hydrous magnesium silicate. Hexane is added at the boil to give 0.37 g of solid, m.p. 219°-221° C.

reactant | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2-(trifluoromethyl)benzamide | 0.48 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)C(F)(F)F)=O | C27H20F3N3O2
reactant | trichloroacetic anhydride | 0.40 g | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[[3-(Trichloroacetyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10 (11H) -yl]carbonyl]phenyl]-2(trifluoromethyl)benzamide | 0.37 g | ClC(C(=O)C1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C(F)(F)F)=O)(Cl)Cl | C29H19Cl3F3N3O3
